US08912186B2
By a procedure similar to that of example 1.59.1, starting from 4-bromo-2-fluorobenzaldehyde and acetophenone, 3-(4-bromo-2-fluorophenyl)-1-phenylprop-2-en-1-one was obtained as yellow solid.

reactant | 4-bromo-2-fluorobenzaldehyde | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | 3-(4-bromo-2-fluorophenyl)-1-phenylprop-2-en-1-one | BrC1=CC(=C(C=C1)C=CC(=O)C1=CC=CC=C1)F | C15H10BrFO
